US05965743
2.5 g of 4-octyloxybenzyl alcohol were dissolved in 20 ml of chloroform, and the resultant solution was further fed dropwise with 1.48 g of thionyl chloride and then stirred for 1 hour at room temperature. The solution reacted was poured into ice-water and extracted with chloroform. The organic layer resulted was then dried with anhydrous magnesium sulfate, and the solvent used was removed by distillation under reduced pressure, thereby affording 2.2 g of 4-octyloxybenzyl chloride.

reactant | 4-octyloxybenzyl alcohol | 2.5 g | C(CCCCCCC)OC1=CC=C(CO)C=C1 | C15H24O2
reactant | thionyl chloride | 1.48 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-octyloxybenzyl chloride | 2.2 g | C(CCCCCCC)OC1=CC=C(CCl)C=C1 | C15H23ClO
